Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
atenolol / Avelox / Barbiturates / Flonase / Keflex / omeprazole 
/ prochlorperazine / simvastatin / trazodone
 
Attending: ___.
 
Chief Complaint:
L knee pain 
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
___ w/ a R minimally displaced lateral tibial plateau fx s/p MVC 
___, d/c from ED w/ plan for non-op management. Admitted 
from clinic given unable to managed at home. Plan for continued 
non-op management. 
 
Past Medical History:
non contributory 
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
General: lying comfortably in bed, NAD
Resp: non labored
Abd: soft
LLE: In ___. Fires TA, Gastroc, ___, EDL/FDL. SILT 
distally. 2+ dp, pt pulses. Warm and well perfused. Soft 
compartments 
 
Brief Hospital Course:
The patient presented to clinic and was evaluated by the 
orthopedic surgery team. The patient was found to have 
difficulty with activity of daily living and was admitted to the 
orthopedic surgery service. The patient worked with ___ who 
determined that discharge to rehabilitation ___ was 
appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
touch down weight bearing in the right lower extremity, and will 
be discharged on aspirin for DVT prophylaxis. The patient will 
follow up with Dr. ___ routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.
 
Medications on Admission:
Doxepin HCl 25 mg PO HS  
Gabapentin 200 mg PO MORNING AND NOON  
RX *lidocaine 5 % apply to R side where rib pain is located 1 
per day Disp #*10 Patch Refills:*0 
Lisinopril 15 mg PO DAILY 
this is your home blood pressure medication. continue to take as 
directed   
LORazepam 0.5 mg PO QHS:PRN anxiety 
continue this medication to treat anxiety   
 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*100 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID  
3.  Doxepin HCl 25 mg PO HS  
4.  Enoxaparin Sodium 30 mg SC Q12H to prevent blood clots  
Duration: 26 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
5.  Gabapentin 200 mg PO MORNING AND NOON  
6.  Lidocaine 5% Patch 1 PTCH TD QPM 
This is a new medication to treat your rib pain. Apply to area.  

RX *lidocaine 5 % apply to R side where rib pain is located 1 
per day Disp #*10 Patch Refills:*0 
7.  Lisinopril 15 mg PO DAILY 
this is your home blood pressure medication. continue to take as 
directed   
8.  LORazepam 0.5 mg PO QHS:PRN anxiety 
continue this medication to treat anxiety   
9.  Senna 17.2 mg PO HS 
This is a new medication to treat constipation. hold for loose 
stools or diarrhea   
10.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every 6 hours as 
needed for pain Disp #*80 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
lateral tibial plateau fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Right lower extremity touch down weight bearing 

Physical Therapy:
- RLE TDWB in unlocked ___
Progressive mobility training
Gait training
Balance training
Pulmonary hygiene
Pt education
Treatments Frequency:
Rest, Ice, Elevation 
 
Followup Instructions:
___